US04863959
A mixture of 9.39 g of 3-bromo-2,5-difluoro-α-methylbenzyl alcohol, 3.82 g of CuCN and 117 mL of DMF is stirred and heated at reflux for 7 hours under N2. When the mixture has cooled, 100 mL of 5% aqueous NaCN is added followed by 350 mL of H2O 30 minutes later. The black solution is extracted with 4×150 mL of CH2Cl2 and these combined extracts washed with H2O, saturated NaHCO3 and H2O (150 mL each) and stripped in vacuo to furnish 6.92 g (95% yield) of 2,5-difluoro-3-(1-hydroxyethyl)-benzonitrile as a brown oil. The product exhibits an M+1 ion at 184 in the mass spectrum and appropriate infrared and N.M.R. spectral data.

reactant | 3-bromo-2,5-difluoro-α-methylbenzyl alcohol | 9.39 g | BrC=1C(=C(C(C)O)C=C(C1)F)F | C8H7BrF2O
reactant | CuCN | 3.82 g | C(#N)[Cu]
reactant | DMF | 117 mL | CN(C)C=O | C3H7NO
reactant | NaCN | 100 mL | [C-]#N.[Na+]
solvent | H2O | 350 mL | O | H2O
product | 2,5-difluoro-3-(1-hydroxyethyl)-benzonitrile | 6.92 g, 95% yield | FC1=C(C#N)C=C(C=C1C(C)O)F | C9H7F2NO
